Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___.
 
Chief Complaint:
right arm pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ woman with a history of recent cellulitis who
presents with right arm redness and pain on oral antibiotics
concerning for outpatient failure of cellulitis treatment.  She
was seen in our ED on ___ for cellulitis with lymphangitic
spread.  She was treated with IV clindamycin overnight and
discharged on p.o. clindamycin.  She had a recurrence of her
symptoms after discharge and presented to ___ 
___
where she was admitted and treated with IV antibiotics.  She was
discharged on doxycycline and cephalexin which she is still
taking.  She followed up with her primary care doctor today who
noted persistent cellulitis.  He was also concerned regarding
palpable nodules from the area of the cellulitis.  She 
reportedly
has had an abnormal ultrasound with an enlarged supraclavicular
lymph node.  She also notes a 20 pound unintentional weight loss
over the last month.

- In the ED, initial vitals were:
T 98.4F HR 60 BP 81/65 RR 16 O2 99% RA 
 
- Exam was notable for:
"Area of erythema and tenderness on the volar aspect of the 
right
forearm with several firm palpable nodules, no lymphangitic
spread noted at this time, no axillary lymphadenopathy 
palpable."

- Labs were notable for:
CBC unremarkable. 
BMP unremarkable. 
Lactate 0.9. 
UA overall unremarkable. 

- Studies were notable for:
RUE US
No DVT in the right upper extremity. Mild edema in the soft
tissues of the anterior cubital fossa.

- The patient was given:
1 L LR 

On arrival to the floor, the patient and her mother endorsed the
above story.  They note that she has had red painful areas
streaking on her right arm initially in her axilla for about a
month.  These have come and gone on various antibiotic regimens
with no clear correlation.  She has never felt systemically ill
or had any fevers or chills.  She had a right axillary node that
was reportedly large at the outside hospital but this was
transient and resolved on its own.  She currently feels well and
notes that the rash is fading fairly rapidly.

 
Past Medical History:
ADHD
 
Social History:
___
Family History:
Cardiovascular disease in mother's family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
VITALS: T 98.0F PO BP 107/67 HR 57 RR 20 O2 99 Ra 
___: Alert and interactive. In no acute distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. No cervical,
axillary lymphadenopathy. 
SKIN: Warm.  Faint erythematous rash on volar surface of right
forearm with one area of nodularity.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. 

DISCHARGE PHYSICAL EXAM
============================
24 HR Data (last updated ___ @ 555)
    Temp: 98.0 (Tm 98.0), BP: 107/67, HR: 57, RR: 20, O2 sat:
99%, O2 delivery: Ra, Wt: 140 lb/63.5 kg  
___: Alert and interactive. In no acute distress.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. No cervical,
axillary, or forearm lymphadenopathy.
SKIN: Warm.  2 very small spots of faint erythematous rash 
within
the borders of previously marked areas.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. 

 
Pertinent Results:
ADMISSION LABS
=========================
___ 12:55AM BLOOD WBC-6.1 RBC-4.18 Hgb-12.8 Hct-38.5 MCV-92 
MCH-30.6 MCHC-33.2 RDW-12.4 RDWSD-41.6 Plt ___
___ 12:55AM BLOOD Neuts-40.7 ___ Monos-10.2 Eos-5.0 
Baso-1.0 Im ___ AbsNeut-2.47 AbsLymp-2.60 AbsMono-0.62 
AbsEos-0.30 AbsBaso-0.06
___ 12:55AM BLOOD Glucose-101* UreaN-14 Creat-0.8 Na-141 
K-4.6 Cl-103 HCO3-25 AnGap-13
___ 12:55AM BLOOD ALT-8 AST-16 LD(LDH)-179 AlkPhos-56 
TotBili-0.2
___ 12:55AM BLOOD Calcium-9.5 Phos-4.6* Mg-2.1 UricAcd-4.7
___ 12:55AM BLOOD TSH-4.4*
___ 12:55AM BLOOD ___ Titer-1:80* CRP-3.0
___ 01:00AM BLOOD Lactate-0.9

MICROBIOLOGY
===========================

___ 3:19 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ENTEROCOCCUS SP..    10,000-100,000 CFU/mL. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------  =>16 R
VANCOMYCIN------------ <=0.5 S

___ 1:20 am BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

IMAGING
==================================
Right upper extremity US ___ IMPRESSION:  
No evidence of deep vein thrombosis in the right upper 
extremity. 

CXR ___ IMPRESSION:  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
SUMMARY STATEMENT:
====================
___ previously healthy woman with recurrent intermittent 
right arm rash and unintentional weight loss. She was taking 
cephalexin and doxycycline prior to admission. Here, the rash 
resolved without antibiotics so no antibiotics were initiated. 
Dermatology was consulted. Nontargeted work-up including CRP, 
___, urine GC CT, and chest x-ray were negative. She was 
discharged home with outpatient dermatology follow-up and 
instructions to return to the hospital if any red flag signs 
arose.

TRANSITIONAL ISSUES:
====================
[] Patient will be connected with infectious disease clinic. She 
is being discharged with 2 week supply of antibiotics, though 
decision to continue beyond ___ clinic appointment will be 
determined by ID team.

ACTIVE ISSUES:
==============
# Right arm rash
# Concern for cellulitis
If cellulitis, treatment failure would be due to highly 
resistant organism (unlikely given intermittent time course of 
symptoms) or lymphatic obstruction, possibly due to underlying 
malignancy (suggested by weight loss but no other symptoms). 
Versus atypical organisms, but only suspicious exposure is to 
aquarium water/starfish and rash had started beforehand. Sent 
basic labs to rule out possible etiologies of symptoms including 
LDH (normal, in case of malignancy), CRP 
(autoimmune/inflammatory), ___ (pending at discharge), urine 
GC/CT (pending at discharge). Dermatology was consulted and 
determined rash to be consistent with lymphangitis, as the rash 
can persist for weeks despite appropriate treatment. They 
recommended a course of antibiotics. Plan is to discharge 
patient on 2 weeks of cephalexin + doxycycline with follow-up 
with ID near end of treatment course.

# Unintentional weight loss
In the setting of possible lymphadenopathy would be concerning 
for malignancy or indolent infection. She had no other B 
symptoms such as fevers or night sweats. Had no lymphadenopathy 
on exam. Has not had cross sectional imaging but it was 
determined not indicated. Chest x-ray without mediastinal 
lymphadenopathy or mass. RUE DVT ultrasound negative but soft 
tissue study not performed. Normal TSH, LDH.

# Yeast infection
Patient complained of yeast infection, was given 1 time dose of 
fluconazole 150 mg.

CHRONIC ISSUES:
===============
Continued home citalopram.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
2. Doxycycline Hyclate 100 mg PO Q12H 
3. Cephalexin 500 mg PO Q6H 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Concerta (methylphenidate HCl) 54 mg oral DAILY 

 
Discharge Medications:
1.  Apri (desogestrel-ethinyl estradiol) 0.15-0.03 mg oral DAILY 
 
2.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*56 Tablet Refills:*0 
3.  Concerta (methylphenidate HCl) 54 mg oral DAILY  
4.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*28 Tablet Refills:*0 
5.  Escitalopram Oxalate 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
Rash

SECONDARY DIAGNOSES:
Anxiety

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because of a painful rash on 
your right arm.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- In the hospital, you were evaluated by the ___ medicine 
and dermatology teams, who determined that your rash could be 
further managed as an outpatient. You had an ultrasound of your 
arm which did not identify any blood clots. You had a normal 
x-ray of your chest. It is likely that your rash is caused by a 
infection of the lymphatic system, called lymphangitis. You were 
treated for this in the past, but sometimes this take several 
weeks to disappear, so you will continue antibiotic treatment 
for now until you follow-up with the infectious disease clinic.

WHAT SHOULD I DO WHEN I GO HOME?
- Please take all of your medications exactly as prescribed and 
attend all of your follow-up appointments listed below.

- You are being discharged on a course of antibiotics (14 days 
worth), which you should continued until you follow up in the 
infectious disease clinic.

- You should see a doctor to discuss your recent weight loss.

- Please return to the hospital if you have any of the following 
symptoms: fevers, chills, widespread worsening of your rash 
without resolution, significant arm swelling, rash in any other 
places besides your arm, shortness of breath

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___